US07262318B2
5-(4′-Butyl-biphenyl-4-ylsulfamoyl)-2-methyl-benzoic acid methyl ester
A mixture of 4-butylbenzeneboronic acid (174 mg, 0.975 mmol), 5-(4-bromo-phenylsulfamoyl)-2-methyl-benzoic acid methyl ester (150 mg, 0.39 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (16 mg, 0.019 mmol), 1,1′-bis(diphenylphosphino)ferrocene (11 mg, 0.019 mmol) and potassium carbonate (0.39 ml of a 2M aqueous solution, 0.78 mmol) in 15 ml 1,4-dioxane was heated at reflux under nitrogen for 20 hr. The reaction mixture was cooled to room temperature, diluted with 80 ml water and extracted with 2×70 ml ethyl acetate. The combined ethyl acetate extracts were washed with 60 ml brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude product was purified by flash column chromatography (silica gel, 15 g), eluting with 6:1 hexane/ethyl acetate to yield the title compound as a white solid (109 mg, 64% yield).

reactant | 4-butylbenzeneboronic acid | 0.975 mmol, 174 mg | C(CCC)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | 5-(4-bromo-phenylsulfamoyl)-2-methyl-benzoic acid methyl ester | 0.39 mmol, 150 mg | COC(C1=C(C=CC(=C1)S(NC1=CC=C(C=C1)Br)(=O)=O)C)=O | C15H14BrNO4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 80 ml | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.019 mmol, 16 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.019 mmol, 11 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 5-(4′-Butyl-biphenyl-4-ylsulfamoyl)-2-methyl-benzoic acid methyl ester | 109 mg, 64% yield | COC(C1=C(C=CC(=C1)S(NC1=CC=C(C=C1)C1=CC=C(C=C1)CCCC)(=O)=O)C)=O | C25H27NO4S
